US07091228B2
2,2-Dimethyl-4-{4′-[(5-nitro-1,3-thiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-4-oxobutanoic acid
In a 8-mL screw-cap vial, a mixture of 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid (60 mg, 0.20 mmol) and 2-bromo-5-nitro-1,3-thiazole (63.3 mg, 0.30 mmol) in 4 mL n-butanol was heated at 90° C. overnight. The solvent was removed under reduced pressure. The mixture was dissolved in 5 mL 1:4 MeOH/DMF and purified by reverse-phase HPLC to provide 8.9 mg (10%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 11.55 (br s, 1 H), 8.50 (s, 11 H), 7.70–8.05 (m, 8 H), 3.15 (d, 1 H), 1.25 (s, 6 H); LC-MS m/z 426.2 (MH+), ret. time 3.12 min.

reactant | 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid | 0.20 mmol, 60 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C18H19NO3
reactant | 2-bromo-5-nitro-1,3-thiazole | 0.30 mmol, 63.3 mg | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
product | 2,2-Dimethyl-4-{4′-[(5-nitro-1,3-thiazol-2-yl)amino]-1,1′-biphenyl-4-yl}-4-oxobutanoic acid | 8.9 mg, 10% | CC(C(=O)O)(CC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC=1SC(=CN1)[N+](=O)[O-])C | C21H19N3O5S
